US04324787
1,6-Bis-(2-oxo-1-pyrrolidineacetamido)-hexane
10 g (0.06 mol) of ethyl 2-oxo-1-pyrrolidineacetate and 3.4 g (0.03 mol) of 1,6-diaminohexane are dissolved in 5 ml of absolute methanol and the solution is boiled for 19 hours, moisture being excluded. Ether is added to the solution and the precipitate which separates out is filtered off. The product is purified by chromatography on silica gel from methanol:water (100:25).

reactant | ethyl 2-oxo-1-pyrrolidineacetate | 0.06 mol, 10 g | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 1,6-diaminohexane | 0.03 mol, 3.4 g | NCCCCCCN | C6H16N2
reactant | Ether | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | 1,6-Bis-(2-oxo-1-pyrrolidineacetamido)-hexane | O=C1N(CCC1)CC(=O)NCCCCCCNC(CN1C(CCC1)=O)=O | C18H30N4O4
